US04628057
(1RS,3RS)-cis-1-Ethyl-2-[(methylthio)thiocarbonyl]-1,2,3,4-tetrahydro-β-carboline-3-carboxylic acid
In the same manner as described in Example 43, (1RS,3RS)-cis-1-ethyl-1,2,3,4-tetrahydro-β-carboline-3-carboxylic acid (1.22 g), triethylamine (1.21 g), carbon disulfide (456 mg), methyl iodide (852 mg), methanol (30 ml) and water (3 ml) are reacted and treated. The product is recrystallized from aqueous ethanol to give the title compound (880 mg, 52.7%) as colorless prisms, m.p. 198°-200° C.

reactant | (1RS,3RS)-cis-1-ethyl-1,2,3,4-tetrahydro-β-carboline-3-carboxylic acid | 1.22 g | C(C)[C@@H]1N[C@@H](CC=2C3=CC=CC=C3NC12)C(=O)O | C14H16N2O2
reactant | triethylamine | 1.21 g | C(C)N(CC)CC | C6H15N
reactant | carbon disulfide | 456 mg | C(=S)=S | CS2
reactant | methyl iodide | 852 mg | CI | CH3I
solvent | water | 3 ml | O | H2O
solvent | methanol | 30 ml | CO | CH4O
product | (1RS,3RS)-cis-1-Ethyl-2-[(methylthio)thiocarbonyl]-1,2,3,4-tetrahydro-β-carboline-3-carboxylic acid | 880 mg, 52.7% | C(C)[C@@H]1N([C@@H](CC=2C3=CC=CC=C3NC12)C(=O)O)C(=S)SC | C16H18N2O2S2
